********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* Library of Vishay MLV SMD varistors
*
*
* $Revision:   2.0  $
* $Author:   Alain Stas  $
* $Date:   26 Aug 2015 $
* $Revision History : 
*---------------------------------------------------------------
*
* Vishay NTC Thermistors included in this file : MLV
* DESCRIPTION: through hole and surface mount NTC thermistors
* For power rating and temperature range limitations, see 
* MLV0402E3 :http://www.vishay.com/varistors/list/product-29107/
* MLV0603E3 :http://www.vishay.com/varistors/list/product-29108/
* MLV0805E3 :http://www.vishay.com/varistors/list/product-29109/
* MLV1206E3 :http://www.vishay.com/varistors/list/product-29126/
* MLV1210E3 :http://www.vishay.com/varistors/list/product-29127/
* MLV1812E3 :http://www.vishay.com/varistors/list/product-29128/
* MLV2220E3 :http://www.vishay.com/varistors/list/product-29129/ 
* or use the search engine of Vishay for visualizing particular data sheet at http://www.vishay.com/
*
* the model is applicable for transient and steady states AC and DC .
* 
*
*
*
*$
.SUBCKT MLV_BASE_MODEL 1 2  PARAMs:  B1=1 B2=1 B3=1 B4=1  L=1h C=1pf  T=1
C_C1         2 4  {C} 
V_V1         4 5 0Vdc   
E_E1         5 2 VALUE { T*(
+ PWR(10,
+  B1+B2*(LOG10(LIMIT(V(6),1m,100G))-4)+B3*EXP(-LOG10(LIMIT(V(6),1m,100G))+4)+B4*EXP(LOG10(LIMIT(V(6),1m,100G))-4)
+ )
+ -PWR(10,
+  B1+B2*(LOG10(-LIMIT(V(6),-100G,-1m))-4)+B3*EXP(-LOG10(-LIMIT(V(6),-100G,-1m))+4)+B4*EXP(LOG10(-LIMIT(V(6),-100G,-1m))-4)
+ )
+ +LIMIT((V(6)*1K*V(7)),-V(7),V(7))
+ ) }
E_E2         6 0 VALUE { +(I(V_V1))*10K }
R_R1         3 1  100u TC=0,0 
L_L1         4 3  {L}  
R_R3         0 6  1T TC=0,0 
R_R4         0 7  1T TC=0,0 
E_E3         7 0 VALUE { PWR(10,(B1+B2*(-7)+B3*EXP(+7)+B4*EXP(-7))) }
.ENDS
*$
.SUBCKT MLV0402E30403T 1  2 PARAMS: TOL=0
X1  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 360pF  L=1nH  B1= 1.0869567497521
+   B2=0.0589084212559778  B3=6.76996930276594E-05  B4=0.0514779919118606
.ENDS
*$
*
.SUBCKT MLV0402E30703T 1  2 PARAMS: TOL=0
X2  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 230pF  L=1nH  B1= 1.19848228349492
+   B2=0.0270718226112904  B3=-0.00107053638014546  B4=0.0551348681268891
.ENDS
*$
*
.SUBCKT MLV0402E31103T 1  2 PARAMS: TOL=0
X3  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 120pF  L=1nH  B1= 1.39723608979781
+   B2=0.0438507742077988  B3=-0.000526338970060311  B4=0.026508456528154
.ENDS
*$
*
.SUBCKT MLV0402E31403T 1  2 PARAMS: TOL=0
X4  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 90pF  L=1nH  B1= 1.53627524901092
+   B2=0.0380515645958707  B3=-0.00088453808127858  B4=0.0198894227545128
.ENDS
*$
*
.SUBCKT MLV0603E30403T 1  2 PARAMS: TOL=0
X5  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 825pF  L=1nH  B1= 1.12111859141425
+   B2=0.0764329060804597  B3=0.00044251887416071  B4=0.029572323883779
.ENDS
*$
*
.SUBCKT MLV0603E30703T 1  2 PARAMS: TOL=0
X6  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 550pF  L=1nH  B1= 1.21934155498481
+   B2=0.0397394001252137  B3=-0.000764239359783154  B4=0.0383993731628489
.ENDS
*$
*
.SUBCKT MLV0603E31103T 1  2 PARAMS: TOL=0
X7  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 425pF  L=1nH  B1= 1.41048587485437
+   B2=0.0502831689922621  B3=-0.00039317107820049  B4=0.0162739672924632
.ENDS
*$
*
.SUBCKT MLV0603E31403T 1  2 PARAMS: TOL=0
X8  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 225pF  L=1nH  B1= 1.54752407918713
+   B2=0.0437718197130108  B3=-0.000760736819787733  B4=0.0108348613687298
.ENDS
*$
*
.SUBCKT MLV0603E32003T 1  2 PARAMS: TOL=0
X9  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 160pF  L=1nH  B1= 1.66826267086363
+   B2=0.0405743009781284  B3=-0.000619957412315578  B4=0.0170582507245809
.ENDS
*$
*
.SUBCKT MLV0603E32503T 1  2 PARAMS: TOL=0
X10  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 150pF  L=1nH  B1= 1.74952191057524
+   B2=0.0390659721971659  B3=-0.000819547332331781  B4=0.012652900911791
.ENDS
*$
*
.SUBCKT MLV0805E30403T 1  2 PARAMS: TOL=0
X11  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 860pF  L=1.5nH  B1= 1.1147474453453
+   B2=0.074116141230492  B3=0.000407605325686384  B4=0.0259768468489016
.ENDS
*$
*
.SUBCKT MLV0805E30703T 1  2 PARAMS: TOL=0
X12  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 585pF  L=1.5nH  B1= 1.25457865365519
+   B2=0.0502712596755128  B3=-0.000654323894849069  B4=0.0218991615255865
.ENDS
*$
*
.SUBCKT MLV0805E31103T 1  2 PARAMS: TOL=0
X13  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 280pF  L=1.5nH  B1= 1.41718513175668
+   B2=0.0497499101453356  B3=-0.000431845888043078  B4=0.0126819157590963
.ENDS
*$
*
.SUBCKT MLV0805E32503T 1  2 PARAMS: TOL=0
X14  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 80pF  L=1.5nH  B1= 1.74358094547863
+   B2=0.0372035832897513  B3=-0.000840601751967781  B4=0.0136074201241652
.ENDS
*$
*
.SUBCKT MLV1206E30403T 1  2 PARAMS: TOL=0
X15  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 3000pF  L=1.8nH  B1= 1.25633648323781
+   B2=0.107272896790963  B3=0.000335639916395456  B4=0.00765735180754308
.ENDS
*$
*
.SUBCKT MLV1206E31103T 1  2 PARAMS: TOL=0
X16  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 800pF  L=1.8nH  B1= 1.49351791929348
+   B2=0.0686564934622611  B3=-0.000872006156687473  B4=0.0206256763447851
.ENDS
*$
*
.SUBCKT MLV1206E31403T 1  2 PARAMS: TOL=0
X17  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 1300pF  L=1.8nH  B1= 1.60898996696986
+   B2=0.0679845767229199  B3=-0.000696031195013512  B4=0.0209249272936088
.ENDS
*$
*
.SUBCKT MLV1206E32003T 1  2 PARAMS: TOL=0
X18  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 900pF  L=1.8nH  B1= 1.72581423867944
+   B2=0.0566100037380578  B3=-0.000786900470293791  B4=0.021842082852573
.ENDS
*$
*
.SUBCKT MLV1206E32503T 1  2 PARAMS: TOL=0
X19  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 550pF  L=1.8nH  B1= 1.80073827751169
+   B2=0.0557179895886896  B3=-0.000909952275691329  B4=0.0206389126823536
.ENDS
*$
*
.SUBCKT MLV1206E33003T 1  2 PARAMS: TOL=0
X20  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 500pF  L=1.8nH  B1= 1.87796838108519
+   B2=0.0639528933691298  B3=-0.000454175093137118  B4=0.0199039398926444
.ENDS
*$
*
.SUBCKT MLV1206E33503T 1  2 PARAMS: TOL=0
X21  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 550pF  L=1.8nH  B1= 1.91533125658281
+   B2=0.052261483411105  B3=-0.000592962251841405  B4=0.0221521499127108
.ENDS
*$
*
.SUBCKT MLV1206E34003T 1  2 PARAMS: TOL=0
X22  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 380pF  L=1.8nH  B1= 2.01364767247601
+   B2=0.0556056615715169  B3=-0.000542399724896791  B4=0.0205883345360855
.ENDS
*$
*
.SUBCKT MLV1206E34503T 1  2 PARAMS: TOL=0
X23  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 240pF  L=1.8nH  B1= 2.06561596741822
+   B2=0.0460272129177594  B3=-0.000740588415637513  B4=0.0240376996840044
.ENDS
*$
*
.SUBCKT MLV1210E30403T 1  2 PARAMS: TOL=0
X24  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 5000pF  L=1.8nH  B1= 1.24671477722438
+   B2=0.0992712229696837  B3=0.000111255165288395  B4=0.0111627329237717
.ENDS
*$
*
.SUBCKT MLV1210E31403T 1  2 PARAMS: TOL=0
X25  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 2000pF  L=1.8nH  B1= 1.59214950287486
+   B2=0.0682102586662107  B3=-0.000541592702948313  B4=0.0154852338894401
.ENDS
*$
*
.SUBCKT MLV1210E32003T 1  2 PARAMS: TOL=0
X26  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 1500pF  L=1.8nH  B1= 1.69916217312069
+   B2=0.0451506867653345  B3=-0.00100066374742859  B4=0.0167753412953256
.ENDS
*$
*
.SUBCKT MLV1210E32503T 1  2 PARAMS: TOL=0
X27  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 1200pF  L=1.8nH  B1= 1.77850916454246
+   B2=0.0391954030820216  B3=-0.00136357742358385  B4=0.0172142044493123
.ENDS
*$
*
.SUBCKT MLV1210E33503T 1  2 PARAMS: TOL=0
X28  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 950pF  L=1.8nH  B1= 1.88651647649563
+   B2=0.0369504333191167  B3=-0.000934227620355103  B4=0.0136169864249779
.ENDS
*$
*
.SUBCKT MLV1812E31403T 1  2 PARAMS: TOL=0
X29  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 4500pF  L=2.5nH  B1= 1.58239693891425
+   B2=0.0777349918350135  B3=0.000391312942112263  B4=0.0116912551075521
.ENDS
*$
*
.SUBCKT MLV1812E31703T 1  2 PARAMS: TOL=0
X30  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 4000pF  L=2.5nH  B1= 1.61243526654457
+   B2=0.0609144051490104  B3=-0.000471155218358303  B4=0.0159619879041014
.ENDS
*$
*
.SUBCKT MLV1812E32003T 1  2 PARAMS: TOL=0
X31  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 3000pF  L=2.5nH  B1= 1.69976546646022
+   B2=0.0462066378735559  B3=-0.000964941705419986  B4=0.0161211017532289
.ENDS
*$
*
.SUBCKT MLV1812E32503T 1  2 PARAMS: TOL=0
X32  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 2500pF  L=2.5nH  B1= 1.78519816709762
+   B2=0.0476993207148782  B3=-0.00108637424786757  B4=0.0128857717768476
.ENDS
*$
*
.SUBCKT MLV1812E33003T 1  2 PARAMS: TOL=0
X33  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 2000pF  L=2.5nH  B1= 1.82485913574889
+   B2=0.0416834013840062  B3=-0.000792320536614669  B4=0.0155967972801635
.ENDS
*$
*
.SUBCKT MLV1812E36003T 1  2 PARAMS: TOL=0
X34  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 1000pF  L=2.5nH  B1= 2.1621152996101
+   B2=0.0451714745620585  B3=-0.00112256637145952  B4=0.012447700159483
.ENDS
*$
*
.SUBCKT MLV1812E39503T 1  2 PARAMS: TOL=0
X35  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 500pF  L=2.5nH  B1= 2.29634120866172
+   B2=0.0314509376086348  B3=-0.00122217484480465  B4=0.0169986722634068
.ENDS
*$
*
.SUBCKT MLV2220E30403T 1  2 PARAMS: TOL=0
X36  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 20000pF  L=3nH  B1= 1.11250853762703
+   B2=0.0648307428378558  B3=-8.39053180648357E-05  B4=0.0154234716158162
.ENDS
*$
*
.SUBCKT MLV2220E31403T 1  2 PARAMS: TOL=0
X37  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 15000pF  L=3nH  B1= 1.57920878345575
+   B2=0.0562085904108282  B3=-0.000892117999503569  B4=0.0120503931038195
.ENDS
*$
*
.SUBCKT MLV2220E32503T 1  2 PARAMS: TOL=0
X38  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 5000pF  L=3nH  B1= 1.72683669460019
+   B2=0.0273278045414326  B3=-0.00158595622938834  B4=0.0160628865168367
.ENDS
*$
*
.SUBCKT MLV2220E33003T 1  2 PARAMS: TOL=0
X39  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 4000pF  L=3nH  B1= 1.78708477072977
+   B2=0.0351440940519753  B3=-0.00106335553690691  B4=0.0156496019912937
.ENDS
*$
*
.SUBCKT MLV2220E35003T 1  2 PARAMS: TOL=0
X40  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 1000pF  L=3nH  B1= 2.03206250290097
+   B2=0.0342464205217258  B3=-0.00118203596283275  B4=0.0143706082215746
.ENDS
*$
*
.SUBCKT MLV2220E36003T 1  2 PARAMS: TOL=0
X41  1 2 MLV_BASE_MODEL  PARAMS: T = {1+TOL/100}  C= 800pF  L=3nH  B1= 2.11689569196282
+   B2=0.0327647863845694  B3=-0.00121168093400082  B4=0.0132910103655574
.ENDS
*
*$
;$SpiceType=AMBIGUOUS
